### ISSUE TITLE
Track E: parseBlockHeader field characterization theorems

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#1136]
### Current state

- **Track E (Zstd)**: Native decompressor 48/48 conformance
- **Sorry count**: 4 (all XxHash UInt64, intractable)
- **Existing parseBlockHeader specs** (in `Zip/Spec/Zstd.lean`):
  - `parseBlockHeader_succeeds` — existential completeness (≥3 bytes + non-reserved type)
- **Gap**: No theorems connecting the parsed `ZstdBlockHeader` field values
  (`.lastBlock`, `.blockType`, `.blockSize`) to the raw bytes at the parse
  position. The completeness theorem gives `∃ hdr afterHdr` but does not
  characterize what `hdr` contains. This prevents composing
  `parseBlockHeader_succeeds` with `decompressBlocksWF_single_raw/rle`
  (which require specific field values as hypotheses).

### Deliverables

1. **`parseBlockHeader_lastBlock_eq`** in `Zip/Spec/Zstd.lean`:

   When `parseBlockHeader` succeeds, `hdr.lastBlock` equals whether
   bit 0 of the 24-bit header word is set.

   Statement:
   ```lean
   theorem parseBlockHeader_lastBlock_eq (data : ByteArray) (pos : Nat)
       (hdr : ZstdBlockHeader) (afterHdr : Nat)
       (h : parseBlockHeader data pos = .ok (hdr, afterHdr)) :
       hdr.lastBlock = ((data[pos]!.toUInt32 ||| (data[pos + 1]!.toUInt32 <<< 8)
         ||| (data[pos + 2]!.toUInt32 <<< 16)) &&& 1 == 1) := by
   ```

   **Proof strategy** (~5-8 lines):
   1. `unfold parseBlockHeader at h`
   2. Handle the size guard (if `data.size < pos + 3` then `.error`, contradiction)
   3. `simp` through the bind/pure chain
   4. The `match` on `typeVal` produces 4 branches (0,1,2,catch-all);
      in each success branch, `hdr` is constructed with known fields.
   5. In each branch, `hdr.lastBlock` equals the computed value — `simp`/`rfl`.

   ~6 lines of statement + 5-8 lines of proof.

2. **`parseBlockHeader_blockType_eq`** in `Zip/Spec/Zstd.lean`:

   When `parseBlockHeader` succeeds, `hdr.blockType` is determined by
   bits 1-2 of the 24-bit header word: 0→raw, 1→rle, 2→compressed.

   Statement:
   ```lean
   theorem parseBlockHeader_blockType_eq (data : ByteArray) (pos : Nat)
       (hdr : ZstdBlockHeader) (afterHdr : Nat)
       (h : parseBlockHeader data pos = .ok (hdr, afterHdr)) :
       (let raw24 := data[pos]!.toUInt32 ||| (data[pos + 1]!.toUInt32 <<< 8)
         ||| (data[pos + 2]!.toUInt32 <<< 16)
        let typeVal := (raw24 >>> 1) &&& 3
        (typeVal = 0 → hdr.blockType = .raw) ∧
        (typeVal = 1 → hdr.blockType = .rle) ∧
        (typeVal = 2 → hdr.blockType = .compressed)) := by
   ```

   **Proof strategy** (~5-8 lines):
   Same approach as deliverable 1: unfold, handle size guard, split on
   typeVal match, each branch produces the specific blockType.

   ~8 lines of statement + 5-8 lines of proof.

3. **`parseBlockHeader_blockSize_eq`** in `Zip/Spec/Zstd.lean`:

   When `parseBlockHeader` succeeds, `hdr.blockSize` equals bits 3-23
   of the 24-bit header word.

   Statement:
   ```lean
   theorem parseBlockHeader_blockSize_eq (data : ByteArray) (pos : Nat)
       (hdr : ZstdBlockHeader) (afterHdr : Nat)
       (h : parseBlockHeader data pos = .ok (hdr, afterHdr)) :
       hdr.blockSize = (data[pos]!.toUInt32 ||| (data[pos + 1]!.toUInt32 <<< 8)
         ||| (data[pos + 2]!.toUInt32 <<< 16)) >>> 3 := by
   ```

   **Proof strategy** (~5-8 lines):
   Same unfold + match approach. In each success branch of the typeVal
   match, `blockSize` is set to `raw24 >>> 3`.

   ~6 lines of statement + 5-8 lines of proof.

### Context

`parseBlockHeader` (in `Zip/Native/ZstdFrame.lean` lines 155-172) reads
3 bytes as a little-endian 24-bit word and extracts:
- bit 0 → `lastBlock` (Bool)
- bits 1-2 → `blockType` (via match: 0=raw, 1=rle, 2=compressed, 3=reserved→error)
- bits 3-23 → `blockSize` (UInt32)

These characterization theorems are **not tautological**: they establish a
bijection between raw byte values and parsed struct fields, independent of
the implementation's internal variable names. They enable composing the
existential `parseBlockHeader_succeeds` with theorems like
`decompressBlocksWF_single_raw` that require specific field values.

Place all three theorems in a new subsection of the existing
`/-! ## Parsing completeness -/` section in `Zip/Spec/Zstd.lean`:
```lean
/-! ### parseBlockHeader field characterization -/
```
after `decompressRLEBlock_succeeds` (line ~340) and before the
`/-! ## Block loop structural lemmas -/` section (line ~435).

No overlap with existing issues:
- #1132: resolveSingleFseTable FSE (ZstdSequence.lean)
- #1129: decodeHuffmanLiterals (ZstdHuffman.lean)
- #1099: parseSequencesHeader (ZstdSequence.lean)
- #1105: parseLiteralsSection raw/RLE (ZstdHuffman.lean)
- #1078/#1103: API-level content (ZstdFrame.lean)
- #1133: ZstdSequence review (ZstdSequence.lean)

Estimation: 3 deliverables × difficulty 1.5 (bit-level unfolding of a
well-structured function) = 4.5. Within bounds.
1 file modified: `Zip/Spec/Zstd.lean`. ~50-60 lines total.

### Verification

1. `lake build Zip.Spec.Zstd` — no errors
2. `lake exe test` — all tests pass
3. Sorry count unchanged (4, all XxHash)
4. No existing theorem statements changed or removed
5. No `native_decide`
6. All three theorems follow the same proof pattern (unfold + match split)

**Comment by kim-em** [comment]
Session: `e7a582fa-7e1c-4c99-a9bf-c4427497ad32` Branch: `agent/d4c4557a`

**Comment by kim-em** [comment]
Claimed by session `875874f3-b5bd-40e1-8cce-6a4cebaaa74e` on branch `agent/875874f3`
